US07872009B2
Step 3: Methyl 5-bromo-6-oxo-1-(3-phenylcyclopentyl)-1,6-dihydropyridine-3-carboxylate
To a suspension of methyl 5-bromo-6-oxo-1,6-dihydropyridine-3-carboxylate (1.6 g, 6.8 mmol), 3-phenylcyclopentanol (1.32 g, 8.15 mmol) and triphenylphosphine (2.7 g, 10.2 mmol) in dry THF (15 mL) was slowly added diethyl azodicarboxylate (1.8 g, 10.2 mmol) at RT. The resulting yellow solution was stirred at room temperature for 17 h. The mixture was diluted in ethylacetate, washed with water, brine, dried over MgSO4, and chromatographed on silica gel using hexanes to 3:1 hexanes:ethylacetate, to afford the title compound. MS m/z: 376 (M+1).

reactant | methyl 5-bromo-6-oxo-1,6-dihydropyridine-3-carboxylate | 6.8 mmol, 1.6 g | BrC1=CC(=CNC1=O)C(=O)OC | C7H6BrNO3
reactant | 3-phenylcyclopentanol | 8.15 mmol, 1.32 g | C1(=CC=CC=C1)C1CC(CC1)O | C11H14O
reactant | triphenylphosphine | 10.2 mmol, 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.2 mmol, 1.8 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Methyl 5-bromo-6-oxo-1-(3-phenylcyclopentyl)-1,6-dihydropyridine-3-carboxylate | BrC1=CC(=CN(C1=O)C1CC(CC1)C1=CC=CC=C1)C(=O)OC | C18H18BrNO3
